US04167638
A mixture of 3.1 g of (0.01 mole) of 4-chloro-6-methoxy-8-nitro-2-trifluoromethylquinoline, 75 ml of ethanol and 1 g of 5% Pd on CaCO3 was shaken on a Parr apparatus for 4.5 hr, at 50°-60°, under a hydrogen pressure of 70 psig. The yellow mixture was filtered and concentrated to dryness in vacuo. The residue was extracted with boiling ligroine (bp 90°-120° ) and the solvent was removed from the extract under reduced pressure. The residue was distilled to give 1.25 g (52%) of 8-amino-6-methoxy-2-trifluoromethylquinoline as a yellow oil, bp 127°-128° /1 mm.

reactant | 4-chloro-6-methoxy-8-nitro-2-trifluoromethylquinoline | 0.01 mole, 3.1 g | ClC1=CC(=NC2=C(C=C(C=C12)OC)[N+](=O)[O-])C(F)(F)F | C11H6ClF3N2O3
catalyst | Pd | 1 g | [Pd] | Pd
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | 8-amino-6-methoxy-2-trifluoromethylquinoline | 1.25 g, 52% | NC=1C=C(C=C2C=CC(=NC12)C(F)(F)F)OC | C11H9F3N2O
